US04123529
1-(5-Phenyloxazol-2-ylmethyl)-4-(4-aminophenyl)-piperazine
A solution of 1-(5-phenyloxazol-2-ylmethyl)-4-(4-nitrophenyl)-piperazine (7.28 g; 0.02 mole) in glacial acetic acid (50 ml) was hydrogenated over 5% Palladium-on-charcoal catalyst (100 mg) at atmospheric pressure and room temperature, until the uptake of hydrogen was complete. The solvent was evaporated off under vacuum and the residue treated with aqueous sodium bicarbonate solution, yielding a white crystalline solid. Weight after drying = 6.54 g (98%), m.p. 130° C.

reactant | 1-(5-phenyloxazol-2-ylmethyl)-4-(4-nitrophenyl)-piperazine | 0.02 mole, 7.28 g | C1(=CC=CC=C1)C1=CN=C(O1)CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H20N4O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 1-(5-Phenyloxazol-2-ylmethyl)-4-(4-aminophenyl)-piperazine | C1(=CC=CC=C1)C1=CN=C(O1)CN1CCN(CC1)C1=CC=C(C=C1)N | C20H22N4O
